simulator lang=spectre
global 0

ahdl_include "adc_ideal_4b_renamed.va"
ahdl_include "dac_ideal_4b_renamed.va"

parameters vdd=0.9
Vvdd (vdd 0) vsource dc=vdd
Vvss (vss 0) vsource dc=0
Vclk (sample_event 0) vsource type=pulse val0=0 val1=vdd period=1n rise=50p fall=50p
Vrst (rst_n 0) vsource type=pwl wave=[0 0  9.5n 0  10n vdd  50n vdd]
Vvin (analog_in 0) vsource type=pwl wave=[0 0  50n 0.9]

IADC (analog_in sample_event vdd vss rst_n q3 q2 q1 q0) adc_ideal_4b_renamed
IDAC (q3 q2 q1 q0 vdd vss rst_n recon_level) dac_ideal_4b_renamed

tran tran stop=50n maxstep=100p
save analog_in sample_event rst_n recon_level q3 q2 q1 q0
