simulator lang=spectre
global 0

ahdl_include "./dut/analog_multiplier_gain.va"

Vin1 (sigin1 0) vsource type=pwl wave=[0 -0.30 8n -0.30 8.1n 0.60 18n 0.60 18.1n -0.70 32n -0.70]
Vin2 (sigin2 0) vsource type=pwl wave=[0 0.40 8n 0.40 8.1n -0.20 18n -0.20 18.1n 0.50 32n 0.50]

XDUT (sigin1 sigin2 sigout) analog_multiplier_gain gain=2


tran tran stop=28n maxstep=25p
save sigin1 sigin2 sigout
