simulator lang=spectre
global 0

ahdl_include "./dut/converter_static_linearity_measurement_flow.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=5n width=2.5n delay=1.5n rise=100p fall=100p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 3n 0.9 3.1n 0 120n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.0 6n 0.0 108n 0.9 120n 0.9]

XDUT (clk rst vin code recon dnl inl) converter_static_linearity_measurement_flow


tran tran stop=120n maxstep=250p
save clk rst vin code recon dnl inl
