simulator lang=spectre
global 0

ahdl_include "./dut/element_shuffler.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=10n rise=200p fall=200p width=5n period=20n
Vrst (rst_n 0) vsource type=pwl wave=[0 0 8n 0 9n 0.9 132n 0.9 133n 0 143n 0 144n 0.9 230n 0.9]

XDUT (clk rst_n out0 out1 out2 out3) element_shuffler


tran tran stop=230n maxstep=500p
save clk rst_n out0 out1 out2 out3
