simulator lang=spectre
global 0

ahdl_include "./dut/rail_normalized_metric_mapper.va"

Vvss (vss 0) vsource type=pwl wave=[0 -0.08 5n -0.08 5.05n 0.12 11n 0.12 11.05n -0.06 15n -0.06]
Vvdd (vdd 0) vsource type=pwl wave=[0 0.77 3.2n 0.77 3.25n 1.18 7.5n 1.18 7.55n 1.34 10n 1.34 10.05n 0.5 12.5n 0.5 12.55n 0.96 15n 0.96]
Vmeas (meas 0) vsource type=pwl wave=[0 0.2 2n 0.2 2.05n 0.7 4.8n 0.7 4.85n 1.26 7.2n 1.26 7.25n 0.54 9.5n 0.54 9.55n -0.12 12n -0.12 12.05n 0.42 15n 0.42]
Ven (en 0) vsource type=pwl wave=[0 0.9 8.4n 0.9 8.45n 0 9.2n 0 9.25n 0.9 15n 0.9]

XDUT (meas vdd vss en norm valid) rail_normalized_metric_mapper


tran tran stop=15n maxstep=10p
save meas vdd vss en norm valid time
