simulator lang=spectre
global 0

ahdl_include "./dut/sar_das_logic_6b.va"

Vsam (clk_sampling 0) vsource type=pulse val0=0 val1=1.1 delay=0.1n period=20n width=0.9n rise=20p fall=20p
Vsar (clk_sar 0) vsource type=pulse val0=0 val1=1.1 delay=1.25n period=1.05n width=0.40n rise=20p fall=20p
Vcomp (vcomp 0) vsource type=pwl wave=[0 0 1.8n 0 1.82n 1.1 2.85n 1.1 2.87n 0 3.9n 0 3.92n 1.1 4.95n 1.1 4.97n 0 6.0n 0 6.02n 1.1 8n 1.1]
XDUT (clk_sampling clk_sar vcomp d1 d2 d3 d4 d5 d6 db1 db2 db3 db4 db5 db6 co cob) sar_das_logic_6b

tran tran stop=8.4n maxstep=20p
save clk_sampling clk_sar co cob d1 d2 d3 d4 d5 d6 db1 db2 db3 db4 db5 db6 vcomp
